US04411897
2.72 ml of a 0.46 M HBr solution in CH2Cl2 (1.25 mol equivalents) are added, while stirring, to a solution, cooled with ice, of 497 mg of 7β-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid pivaloyloxymethyl ester (free base) in 5 ml of CH2Cl2. After stirring for 10 minutes, 35 ml of diethyl ether are added to the solution and a precipitate forms. The mixture is stirred for a further 1/2 hour at 0°, the precipitate is filtered off, washed with diethyl ether and dried on a suction filter. The resulting faintly orange powder is dissolved in 2.5 ml of CH2Cl2, whereupon the product recrystallises. After the addition of 5 ml of CH2Cl2, the mixture is stirred for one hour while cooling with ice. Filtration, washing of the resulting crystals with CH2Cl2 and diethyl ether and drying in a high vacuum yield the 7β-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid pivaloyloxymethyl ester hydrobromide in syn-form having a melting point of 215° (with decomposition).

reactant | HBr | 0.46 M | Br | BrH
reactant | 7β-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid pivaloyloxymethyl ester | 497 mg | C(C(C)(C)C)(=O)OCOC(=O)C1=CCS[C@H]2N1C([C@H]2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | C19H23N5O7S2
reactant | diethyl ether | 35 ml | C(C)OCC | C4H10O
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.25 mol | C(Cl)Cl | CH2Cl2
product | 7β-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid pivaloyloxymethyl ester hydrobromide | Br.C(C(C)(C)C)(=O)OCOC(=O)C1=CCS[C@H]2N1C([C@H]2NC(C(=NOC)C=2N=C(SC2)N)=O)=O | InChI=1S/C19H23N5O7S2.BrH/c1-19(2,3)17(28)31-8-30-16(27)10-5-6-32-15-12(14(26)24(10)15)22-13(25)11(23-29-4)9-7-33-18(20)21-9;/h5,7,12,15H,6,8H2,1-4H3,(H2,20,21)(H,22,25);1H/t12-,15-;/m1./s1
